US08629270B2
Racemic N-[6-Allyl-7a-(5-fluoro-2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide
To a stirred solution of racemic N-[[1-allyl-3-(5-fluoro-2-thienyl)-4-(hydroxymethyl)pyrrolidin-3-yl]carbamothioyl]benzamide (320 mg, 0.763 mmol) in dichloromethane (7.6 mL) at 0° C. under nitrogen is added 1-chloro-N,N,2-trimethylpropenylamine (0.2 mL, 1.53 mmol). The solution is stirred while slowly warming to 10° C. over 2 hours. The ice bath is removed and the reaction is warmed to room temperature over another 2 hours. The solution is diluted with dichloromethane (approximately 40 mL) and washed with dilute sodium bicarbonate (40 mL prepared from water (20 mL) and saturated sodium bicarbonate (20 mL)). The aqueous phase is re-extracted with dichloromethane (40 mL). The combined organic extracts are dried over sodium sulfate, filtered, and concentrated. The residue is purified by silica gel chromatography eluting with hexanes/ethyl acetate, two-step gradient from 60:40 to 50:50, to give the title compound (186 mg, 61%). ES/MS (m/e): 402 (M+H).

reactant | racemic N-[[1-allyl-3-(5-fluoro-2-thienyl)-4-(hydroxymethyl)pyrrolidin-3-yl]carbamothioyl]benzamide | 0.763 mmol, 320 mg | C(C=C)N1CC(C(C1)CO)(C=1SC(=CC1)F)NC(=S)NC(C1=CC=CC=C1)=O | C20H22FN3O2S2
reactant | 1-chloro-N,N,2-trimethylpropenylamine | 1.53 mmol, 0.2 mL | ClC(=C(C)C)N(C)C | C6H12ClN
solvent | dichloromethane | 7.6 mL | ClCCl | CH2Cl2
product | Racemic N-[6-Allyl-7a-(5-fluoro-2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 186 mg, 61% | C(C=C)N1CC2(N=C(SCC2C1)NC(C1=CC=CC=C1)=O)C=1SC(=CC1)F | C20H20FN3OS2
